US09402397B2
2-diazo-1-(thiophen-2-yl)ethanone (2.3 g, 0.0151 mol) and 3,4,5,6-tetrachlorocyclohexa-3,5-diene-1,2-dione (3.36 g, 0.0136 mol) were then combined in dry benzene (25 mL) and refluxed vigorously for 6 hours. The solvent was then evaporated to dryness, and the crude material was subjected to column chromatography using 100-200 mesh silica gel and 15% ethyl acetate-hexane solvent system. Evaporation of the solvent yielded (4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)(thiophen-2-yl)methanone as an orange solid (2.2 g, 43.4%).

reactant | 2-diazo-1-(thiophen-2-yl)ethanone | 0.0151 mol, 2.3 g | [N+](=[N-])=CC(=O)C=1SC=CC1 | C6H4N2OS
reactant | 3,4,5,6-tetrachlorocyclohexa-3,5-diene-1,2-dione | 0.0136 mol, 3.36 g | ClC=1C(C(C(=C(C1Cl)Cl)Cl)=O)=O | C6Cl4O2
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | (4,5,6,7-tetrachlorobenzo[d][1,3]dioxol-2-yl)(thiophen-2-yl)methanone | 2.2 g, 43.4% | ClC1=C(C(=C(C=2OC(OC21)C(=O)C=2SC=CC2)Cl)Cl)Cl | C12H4Cl4O3S
